US08486968B2
(b) N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide
A mixture of N-(trans-4-trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-(aminomethyl)-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide (130 mg, 0.210 mmol), pivaloyl chloride (26 μL, 0.21 mmol), TEA (75 mg, 0.74 mmol) and 5 mL THF is stirred for 20 min and diluted with MeOH. The crude product is purified via prep. HPLC (C-18 stable bond, eluent gradient: water(+0.15% HCOOH)/MeOH 9:1->MeOH).

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-(aminomethyl)-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide | 0.210 mmol, 130 mg | FC([C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)F)NC(=N2)NC2=C(C(=CC(=C2Cl)F)CN)Cl)(F)F | C26H28Cl2F5N7O
reactant | pivaloyl chloride | 0.21 mmol, 26 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide | FC([C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)F)NC(=N2)NC2=C(C(=CC(=C2Cl)F)CNC(C(C)(C)C)=O)Cl)(F)F | C31H36Cl2F5N7O2
